US07491729B2
Preparation took place by reacting 4-chloroanisole with 1-acetylpiperidine-4-carbonyl chloride to give the intermediate (1-acetylpiperidin-4-yl)-(5-chloro-2-hydroxyphenyl)methanone in analogy to Strupczewski et al., J. Med. Chem. 1985, 28, 761-69. Alkylation of the OH function with methyl bromoacetate was followed by cyclization in analogy to Kaltenbronn et al, Eur. J. Med. Chem. 1997, 32 (5), 425-431, to give methyl 3-(1-acetylpiperidin-4-yl)-5-methyl-1-benzofuran-2-carboxylate. Hydrolysis of the ester function, decarboxylation and subsequent hydrolysis of the acetyl group resulted in 4-(5-methyl-1-benzofuran-3-yl)piperidine (see also DE 2537837 for the preparation).

reactant | 4-chloroanisole | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | 1-acetylpiperidine-4-carbonyl chloride | C(C)(=O)N1CCC(CC1)C(=O)Cl | C8H12ClNO2
product | (1-acetylpiperidin-4-yl)-(5-chloro-2-hydroxyphenyl)methanone | C(C)(=O)N1CCC(CC1)C(=O)C1=C(C=CC(=C1)Cl)O | C14H16ClNO3
